US08461149B2
Step 10: (R)—N-cyclopropyl-4-(9-(3,3-difluorocyclopentyl)-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide
Concentrated hydrochloric acid (52 μl) was added to a mixture of (R)-2-chloro-9-(3,3-difluorocyclopentyl)-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (100 mg, 0.29 mmol) and 4-amino-N-cyclopropyl-3-methoxybenzamide (90 mg, 0.44 mmol) in ethanol (1.4 mL) and water (5.2 mL). The reaction mixture was heated to 85° C. and stirred for 48 hours. The reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with an aqueous saturated solution of sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was purified on silica gel by flash column chromatography to afford the title compound as a white solid (83 mg, 56% yield).

reactant | hydrochloric acid | 52 μl | Cl | ClH
reactant | (R)-2-chloro-9-(3,3-difluorocyclopentyl)-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.29 mmol, 100 mg | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)[C@H]2CC(CC2)(F)F)N1 | C15H19ClF2N4O
reactant | 4-amino-N-cyclopropyl-3-methoxybenzamide | 0.44 mmol, 90 mg | NC1=C(C=C(C(=O)NC2CC2)C=C1)OC | C11H14N2O2
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
solvent | water | 5.2 mL | O | H2O
product | (R)—N-cyclopropyl-4-(9-(3,3-difluorocyclopentyl)-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzamide | 83 mg, 56% yield | C1(CC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)[C@H]2CC(CC2)(F)F)N1)OC)=O | C26H32F2N6O3
